US05508272
a) 2-(Acetylamino)-2-[4-(acetyloxy)butyl]propanedioic acid, diethyl ester
A stirred suspension of 95% sodium hydride (60.8 g, 2.532 mol) in anhydrous dimethylformamide (500 ml) under an atmosphere of argon was cooled to 0° C. (ice bath). A solution of diethyl acetamidomalonate (500 g, 2.302 mol) in anhydrous dimethylformamide (1.2 l) was added over a period of 45 minutes while keeping the reaction temperature below 18° C. After the addition was complete, the turbid solution was gradually warmed to room temperature. After stirring for one hour at room temperature, 4-bromobutyl acetate (471.5 g, 2.417 mol) was added. The mixture was then stirred at 59°-60° C. for 18 hours. The resulting slurry was cooled to room temperature, quenched with absolute ethanol (40 ml) and glacial acetic acid (4 ml), stirred for about 15 minutes, poured into a 10% lithium chloride solution and extracted with ethyl acetate (2×3 l). The combined ethyl acetate extracts were washed with 10% lithium chloride (3×3 l), dried (anhydrous sodium sulfate), and evaporated in vacuo to give 750 g of title product as an oil.

reactant | sodium hydride | 2.532 mol, 60.8 g | [H-].[Na+]
reactant | diethyl acetamidomalonate | 2.302 mol, 500 g | C(C)(=O)NC(C(=O)OCC)C(=O)OCC | C9H15NO5
reactant | 4-bromobutyl acetate | 2.417 mol, 471.5 g | C(C)(=O)OCCCCBr | C6H11BrO2
solvent | dimethylformamide | 500 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 1.2 l | CN(C=O)C | C3H7NO
product | 2-(Acetylamino)-2-[4-(acetyloxy)butyl]propanedioic acid, diethyl ester | 750 g | C(C)(=O)NC(C(=O)OCC)(C(=O)OCC)CCCCOC(C)=O | C15H25NO7
